US07067529B2
To a stirred solution of 6-(3-pyrrolidin-1-yl-propoxy)-7-methoxy-1-(3-ethoxy-benzoyl)-isoquinoline-4-carbaldehyde (63 mg, 0.13 mmol) in t-butanol (0.5 mL) and water (0.5 mL) solution was added sodium dihydrogenphosphate monohydrate (73 mg, 0.53 mmol), 2-methyl-2-butene (0.089 mL, 0.80 mmol) and sodium chlorite (71.2 mg, 0.80 mmol) at room temperature. The reaction suspension was then stirred at room temperature for 14 hrs. The resulting two-phase mixture was partitioned between dichloromethane and water and acidified to pH=3 by addition of 1N hydrochloric acid. The aqueous phase was then extracted with dichloromethane (3×20 mL). The combined extracts were washed with saturated sodium chloride solution (30 mL), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to afford a brown semi-solid oil. The crude product was recrystallized in ethyl acetate to afford 6-(3-pyrrolidin-1-yl-propoxy)-1-(3-ethoxy-benzoyl)-7-methoxy-isoquinoline-4-carboxylic acid hydrochloride (20 mg, 32% yield) as a light brown solid. HR-MS m/e calcd for C27H30N2O6 (M−H+) 479.2177, found 479.2182; 1H NMR (300 MHz) compatible.

reactant | 6-(3-pyrrolidin-1-yl-propoxy)-7-methoxy-1-(3-ethoxy-benzoyl)-isoquinoline-4-carbaldehyde | 0.13 mmol, 63 mg | N1(CCCC1)CCCOC=1C=C2C(=CN=C(C2=CC1OC)C(C1=CC(=CC=C1)OCC)=O)C=O | C27H30N2O5
reactant | sodium dihydrogenphosphate monohydrate | 0.53 mmol, 73 mg | O.P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-2-butene | 0.80 mmol, 0.089 mL | CC(C)=CC | C5H10
reactant | sodium chlorite | 0.80 mmol, 71.2 mg | Cl(=O)[O-].[Na+]
solvent | t-butanol | 0.5 mL | C(C)(C)(C)O | C4H10O
solvent | water | 0.5 mL | O | H2O
product | 6-(3-pyrrolidin-1-yl-propoxy)-1-(3-ethoxy-benzoyl)-7-methoxy-isoquinoline-4-carboxylic acid hydrochloride | 20 mg, 32% yield | Cl.N1(CCCC1)CCCOC=1C=C2C(=CN=C(C2=CC1OC)C(C1=CC(=CC=C1)OCC)=O)C(=O)O | InChI=1S/C27H30N2O6.ClH/c1-3-34-19-9-6-8-18(14-19)26(30)25-21-16-23(33-2)24(15-20(21)22(17-28-25)27(31)32)35-13-7-12-29-10-4-5-11-29;/h6,8-9,14-17H,3-5,7,10-13H2,1-2H3,(H,31,32);1H
